US08685975B2
To a suspension of 4-bromopyrazole (1.5 g, 10.2 mmol) and 4,4′,4″-trimethoxytrityl chloride (4.5 g, 12.2 mmol) in anhydrous DMF (20 mL) under argon was added triethylamine (3 mL, 21.5 mmol) and the mixture was cooled over an ice bath. After stirring for 10 min, the ice bath was removed and the reaction stirred for 2.5 hrs. The mixture was diluted with H2O and extracted with EtOAc. The combined organics were washed with H2O three times then saturated aqueous NaHCO3 and brine. The solution was dried over Na2SO4 and concentrated in vacuo. The crude oil was recrystallized from isopropanol to give 4-bromo-1-(tris(4-methoxyphenyl)methyl)-1H-pyrazole as off-white crystals (two batches; 2.55 g, 52% yield).

reactant | 4-bromopyrazole | 10.2 mmol, 1.5 g | BrC=1C=NNC1 | C3H3BrN2
reactant | 4,4′,4″-trimethoxytrityl chloride | 12.2 mmol, 4.5 g | COC1=CC=C(C(C2=CC=C(C=C2)OC)(C2=CC=C(C=C2)OC)Cl)C=C1 | C22H21ClO3
reactant | triethylamine | 21.5 mmol, 3 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 4-bromo-1-(tris(4-methoxyphenyl)methyl)-1H-pyrazole | 52% yield | BrC=1C=NN(C1)C(C1=CC=C(C=C1)OC)(C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | C25H23BrN2O3
